US07276603B2
8-{4-[2-(5-chloro-1-benzofuran-3-yl)ethyl]-1-piperazinyl}-6-chloro-quinoline was prepared by generally following the procedure outlined in example 12, step 6, starting from the 2-(5-chloro-1-benzofuran-3-yl)ethyl iodide (306 mg, 1 mmol) and 6-chloro-8-piperazino quinoline (247 mg, 1 mmol). The product was purified by silica-gel column chromatography by initially eluting it with 80% ethyl acetate:hexane and then with 5% methanol:ethyl acetate, yielding a brown oil. Yield: 110 mg (25%); (M+H): 427; 1HNMR (400 MHz, CDCl3):δ 8.86˜8.85 (dd, J1=1.8 Hz, J2=1.8 Hz, 1H); 8.03˜8.01 (dd, J1=1.8 Hz, J2=1.8 Hz, 1H); 7.57˜7.10 (m, 7H); 3.51˜2.50 (m, 12H).

reactant | 2-(5-chloro-1-benzofuran-3-yl)ethyl iodide | 1 mmol, 306 mg | ClC=1C=CC2=C(C(=CO2)CCI)C1 | C10H8ClIO
reactant | 6-chloro-8-piperazino quinoline | 1 mmol, 247 mg | ClC=1C=C2C=CC=NC2=C(C1)N1CCNCC1 | C13H14ClN3
product | 8-{4-[2-(5-chloro-1-benzofuran-3-yl)ethyl]-1-piperazinyl}-6-chloro-quinoline | ClC=1C=CC2=C(C(=CO2)CCN2CCN(CC2)C=2C=C(C=C3C=CC=NC23)Cl)C1 | C23H21Cl2N3O
